US07888344B2
2-Bromo-5-(4-methoxyphenyl)cyclohexane-1,3-dione
To a stirred solution of 5-(4-methoxyphenyl)cyclohexane-1,3-dione (5 g, 22.6 mmol) in AcOH (40 mL) at r.t. was added bromine (3.61 g, 1.18 mL, 22.6 mmol) dropwise. The reaction was then carried out according to Method A to give the title compound in quantitative yield as a white solid. δH (DMSO-d6) 7.24 (2H, d, J 8.6 Hz), 6.87 (2H, d, J 8.6 Hz), 3.72 (3H, s), 3.31-3.21 (1H, m), 2.88-2.82 (2H, m), 2.77-2.62 (3H, m). LCMS (ES+) 296.9 (M+H)+.

reactant | 5-(4-methoxyphenyl)cyclohexane-1,3-dione | 22.6 mmol, 5 g | COC1=CC=C(C=C1)C1CC(CC(C1)=O)=O | C13H14O3
reactant | bromine | 22.6 mmol, 1.18 mL, 3.61 g | BrBr | Br2
solvent | AcOH | 40 mL | CC(=O)O | C2H4O2
product | 2-Bromo-5-(4-methoxyphenyl)cyclohexane-1,3-dione | quantitative yield | BrC1C(CC(CC1=O)C1=CC=C(C=C1)OC)=O | C13H13BrO3
